US04242510
4-Nitrobenzyl 7-amino-3-cephem-4-carboxylate (5 g.) was dissolved in a solution of trimethylsilylacetamide (13.8 g.) and bis(trimethylsilyl)acetamide (10 ml.) in dry ethyl acetate (50 ml.) and stirred at 45° C. for 1.5 hours. A solution of bromine (2.88 g.) in methylene chloride (7 ml.) was added dropwise to a solution of diketene (1.5 g.) in methylene chloride (7 ml.) at -40° C. over 20 minutes and stirred at -30° C. for 1 hour. The solution obtained thus was added to dropwise to the above solution of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate under cooling at -15° C. and then stirred at the same temperature for 30 minutes. Water (50 ml.) was added to the resultant solution and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give oily 4-nitrobenzyl 7-[ 2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate (6.15 g.)

reactant | 4-Nitrobenzyl 7-amino-3-cephem-4-carboxylate | 5 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | bromine | 2.88 g | BrBr | Br2
reactant | diketene | 1.5 g | C=C1CC(=O)O1 | C4H4O2
reactant | Water | 50 ml | O | H2O
solvent | trimethylsilylacetamide | 13.8 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | bis(trimethylsilyl)acetamide | 10 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl 7-[ 2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate | 6.15 g | BrCC(=O)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H16BrN3O7S
